US04970213
4.12 g of cyclopropylamine are added in the course of 5 minutes to a solution of 7 g of ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carb onyl)-3-dimethylamino-acrylate in 100 cm3 of trichloromethane kept at a temperature close to 20° C. and the mixture is stirred for a further 4 hours at this temperature. The reaction mixture is concentrated under reduced pressure (20 kPa) at about 50° C. The oily residue obtained is taken up in 100 cm3 of ethanol and 3 g of DBU. The mixture is heated to 80° C. and kept at this temperature, with stirring, for 1 hour and a half. After cooling to about 20° C., the insoluble matter is drained and washed with twice 30 cm3 of ethanol and twice 30 cm3 of diisopropyl ether. 4.5 g of 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthridine are obtained in the form of a colourless solid melting at 260° C.

reactant | cyclopropylamine | 4.12 g | C1(CC1)N | C3H7N
reactant | ethyl 2-(2-chloro-6,7,8-trifluoroquinoline-3-carb onyl)-3-dimethylamino-acrylate | 7 g | ClC1=NC2=C(C(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F)F | C17H14ClF3N2O3
solvent | trichloromethane | 100 cm3 | ClC(Cl)Cl | CHCl3
solvent | ethanol | 100 cm3 | C(C)O | C2H6O
solvent | DBU | 3 g | C1CCC2=NCCCN2CC1 | C9H16N2
product | 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthridine | 4.5 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
